US07906645B2
N-(3,4-dichlorophenyl)-4-({(3R)-1-[2-(1H-1,2,3-triazol-1-yl)ethyl]piperidin-3-yl}methyl)piperazine-1-carboxamide
4-{[(3R)-1-(2-Azidoethyl)piperidin-3-yl]methyl}-N-(3,4-dichlorophenyl)piperazine-1-carboxamide (100 mg, 0.23 μmmol) was dissolved in 1,4-dioxane (4 ml). Bicyclo(2.2.1)hepta-2,5-diene (0.5 ml) was added and the mixture heated in the microwave at 180° C. for 20 minutes. The reaction mixture was poured onto a bond elute column (SiO2, 20 g) and the product eluted with a gradient of dichloromethane through to 20% methanolic ammonia/dichloromethane to yield the title compound as a white solid (80.1 mg)

reactant | 4-{[(3R)-1-(2-Azidoethyl)piperidin-3-yl]methyl}-N-(3,4-dichlorophenyl)piperazine-1-carboxamide | 100 mg | N(=[N+]=[N-])CCN1C[C@@H](CCC1)CN1CCN(CC1)C(=O)NC1=CC(=C(C=C1)Cl)Cl | C19H27Cl2N7O
reactant | Bicyclo(2.2.1)hepta-2,5-diene | 0.5 ml | C12C=CC(C=C1)C2 | C7H8
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | N-(3,4-dichlorophenyl)-4-({(3R)-1-[2-(1H-1,2,3-triazol-1-yl)ethyl]piperidin-3-yl}methyl)piperazine-1-carboxamide | 80.1 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CN(CCC1)CCN1N=NC=C1 | C21H29Cl2N7O
